US06982274B2
tert-Butyl 3-(3-fluorophenyl)-5-nitro-1H-1-indazolecarboxylate
To a solution of 4.5 g of tert-butyl 3-bromo-5-nitro-1H-1-indazolecarboxylate in 20 ml N,N-dimethylformamide were added 2.8 g of 3-fluorophenylboronic aid, 0.16 g of 2-(di-tert-butylphosphino)biphenyl, 60 mg of palladium acetate and 2.31 g of potassium fluoride, and the mixture was heated at 50° C. for two days. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:15), and then recrystallized from diisopropyl ether-hexane, to give 2.2 g of the title compound as a colorless powder.

reactant | tert-butyl 3-bromo-5-nitro-1H-1-indazolecarboxylate | 4.5 g | BrC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)OC(C)(C)C | C12H12BrN3O4
reactant | potassium fluoride | 2.31 g | [F-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.16 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | tert-Butyl 3-(3-fluorophenyl)-5-nitro-1H-1-indazolecarboxylate | 2.2 g | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)OC(C)(C)C | C18H16FN3O4
